US09193710B2
Tert-butyl 4-bromo-2-nitrophenylcarbamate
The title compound was prepared from the commercially available 4-bromo-2-nitroaniline [CAS-No. 875-51-4] (5.0 g, 23 mmol) and Boc2O (6.0 g, 28 mmol) according to the general procedure A. Obtained as a yellow solid (5.4 g, 74%), MS (EI) 317 [(M+1)+] and 261 {[(M-C(CH3)3]+}.

reactant | 4-bromo-2-nitroaniline | 23 mmol, 5.0 g | BrC1=CC(=C(N)C=C1)[N+](=O)[O-] | C6H5BrN2O2
reactant | Boc2O | 28 mmol, 6.0 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | Tert-butyl 4-bromo-2-nitrophenylcarbamate | BrC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C11H13BrN2O4
